US04556738
Then, in a closed glass vessel equipped with a thermometer and a stirrer, there are charged 34 g (0.1 moles) of said crude dinitro-dichloro benzophenone, 1 g of 5% Pd/C (from Nihon-Engelhardt Co.) and 100 ml of dioxane. While the mixture being stirred at 70°-80° C., hydrogen is introduced into the vessel so that 14.2 l (0.63 moles) of hydrogen is absorbed during 15 hours. After being cooled to 30° C., the mixture is added with 18.2 g (0.3 moles) of ammonia water and then again introduced, while being stirred at 30°-35° C., with hydrogen so as to absorb 4.3 l (0.19 moles) of hydrogen during 8 hours. After completion of reaction, the mixture is heated up to 70° C. for filtering in order to remove the catalyst. On cooling the mixture, there is obtained 3,3'-diamino benzophenone in yellow crystals. The crystals is filtered, washed with 10 ml of 50% aqueous solution of dioxane and dried. Yield 17.6 g (83.0%). M.P. 148.5°-150° C. Recrystallization from ethanol yields slightly yellow needle-like crystals of said diamino benzophenone. M.P. 150°-151° C.

reactant | dinitro-dichloro benzophenone | [N+](=O)([O-])C=1C(=C(C(=C(C(=O)C2=CC=CC=C2)C1)Cl)Cl)[N+](=O)[O-] | C13H6Cl2N2O5
reactant | hydrogen | [H][H] | H2
reactant | hydrogen | 0.63 moles, 14.2 l | [H][H] | H2
reactant | ammonia water | 0.3 moles, 18.2 g | O.N
reactant | hydrogen | 0.19 moles, 4.3 l | [H][H] | H2
catalyst | Pd/C | 1 g | [Pd] | Pd
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 3,3'-diamino benzophenone | NC=1C=C(C(=O)C2=CC(=CC=C2)N)C=CC1 | C13H12N2O
